US05229518
(3S,5S,6S)-3,6-Dibenzyl-5-hydroxypiperidin-2-one
Following the procedures outlined in Examples 2-6, and replacing L-cyclohexylalanine methyl ester with L-phenylalanine methyl ester in Example 2 and methyl 3-methyl-2-oxobutyrate with methyl 3-phenyl-2-oxopropionate in Example 4 provides the title compound.

reactant | L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | methyl 3-methyl-2-oxobutyrate | CC(C(C(=O)OC)=O)C | C6H10O3
reactant | methyl 3-phenyl-2-oxopropionate | C1(=CC=CC=C1)CC(C(=O)OC)=O | C10H10O3
product | (3S,5S,6S)-3,6-Dibenzyl-5-hydroxypiperidin-2-one | C(C1=CC=CC=C1)[C@@H]1C(N[C@H]([C@H](C1)O)CC1=CC=CC=C1)=O | C19H21NO2
